US08349824B2
A mixture of 5-(2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (70 mg, 213 μmol), azetidine (71.6 μl, 1.07 mmol), propylphosphonic anhydride (50% in ethyl acetate, 314 μl, 533 μmol) and diisopropylethylamine (112 μl, 640 μmol) in tetrahydrofuran (4 ml) was stirred for 3.5 days (weekend) at 25° C. The solvent was evaporated, the residue was triturated with sodium hydrogencarbonate solution. The precipitated solid was filtered off, washed with water and dried affording 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide (74 mg, 94.5%) as a white solid. mp: 226-227° C., MS: m/z=366.1 (M−H+)

reactant | 5-(2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 213 μmol, 70 mg | C(C)(C)C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1 | C15H16N6O3
reactant | azetidine | 1.07 mmol, 71.6 μl | N1CCC1 | C3H7N
reactant | propylphosphonic anhydride | 533 μmol, 314 μl | CCCP(=O)=O | C3H7O2P
reactant | diisopropylethylamine | 640 μmol, 112 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid (2-isopropyl-[1,2,4]triazolo[1,5-a]pyridin-7-yl)-amide | 74 mg, 94.5% | C(C)(C)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CCC2)C)=N1 | C18H21N7O2
